US07157492B2
7-(3-Furyl)-5H-dibenzo[c,g]chromene-3,9-diol
A mixture of 7-bromo-5H-dibenzo[c,g]chromene-3,9-diol (342 mg, 1.0 mmol), furan-3-boronic acid (224 mg, 2 mmols) and tetrakis(triphenylphosphine)palladium(0) (116 mg, 0.1 mmoles) in DMF (20 ml) is heated at 120° C. with stirring for 4 h. The mixture was filtered through celite, extracted with ethyl acetate (×3), washed with brine, dried over sodium sulfate, filtered, stripped of solvent and purified by silica column chromatography (18%–25% ethyl acetate-hexane) to yield 200 mg (61%) of the title compound as a yellowish solid: mp 216–218° C.; 1H NMR (DMSO-d6): δ 5.00 (2H, s), 6.66 (2H, m), 6.84 (1H, dd, J=8.45 Hz, J=2.35 Hz), 6.93 (1H, dd, J=8.77 Hz, J=2.35 Hz), 7.04 (1H, d, J=2.17 Hz), 7.76 (1H, d, J=8.83 Hz), 7.80–7.85 (3H, m), 8.16 (1H, s), 9.61 (1H, s), 9.71 (1H, s); MS (ESI) m/z 329 (M−H)−, 331(M+H)+.

reactant | 7-bromo-5H-dibenzo[c,g]chromene-3,9-diol | 1.0 mmol, 342 mg | BrC1=C2C(=CC=3C4=C(COC13)C=C(C=C4)O)C=CC(=C2)O | C17H11BrO3
reactant | furan-3-boronic acid | 2 mmols, 224 mg | O1C=C(C=C1)B(O)O | C4H5BO3
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.1 mmoles, 116 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-(3-Furyl)-5H-dibenzo[c,g]chromene-3,9-diol | 200 mg, 61% | O1C=C(C=C1)C1=C2C(=CC=3C4=C(COC13)C=C(C=C4)O)C=CC(=C2)O | C21H14O4
